2100-09-11 07:30:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 PA CATHETER - STOP [**2100-9-10**] 04:29 PM
   + Nosebleed this morning.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Milrinone - 0.375 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2100-9-10**] 08:00 PM
   Other medications:
   Changes to medical and family history: None prior admission note except
   as noted below.
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2100-9-11**] 07:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.4
   Tcurrent: 36.1
C (96.9
   HR: 80 (80 - 82) bpm
   BP: 108/62(74) {94/50(64) - 120/80(102)} mmHg
   RR: 14 (14 - 32) insp/min
   SpO2: 93%
   Heart rhythm: AV Paced
   Wgt (current): 87.5 kg (admission): 93.5 kg
   Height: 73 Inch
    PAP: (73 mmHg) / (40 mmHg)
   Total In:
                                                                  1,709 mL
                                                                    312 mL
   PO:
                                                                  1,400 mL
                                                                    150 mL
   TF:
   IVF:
                                                                    309 mL
                                                                    162 mL
   Blood products:
   Total out:
                                                                  4,350 mL
                                                                    900 mL
   Urine:
                                                                  4,350 mL
                                                                    900 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,641 mL
                                                                   -588 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ///38/
   Physical Examination
   General: Resting comfortably. NAD.
   CV: Systolic ejection murmur III/VI, loudest at apex.
   LUNGS: CTAB anteriorly.
   Labs / Radiology
   105 K/uL
   8.1 g/dL
   118 mg/dL
   1.4 mg/dL
   38 mEq/L
   3.5 mEq/L
   46 mg/dL
   94 mEq/L
   139 mEq/L
   26.1 %
   5.5 K/uL
        [image002.jpg]
                             [**2100-9-7**]  01:34 PM
                             [**2100-9-7**]  10:26 PM
                             [**2100-9-8**]  05:16 AM
                             [**2100-9-9**]  12:37 AM
                             [**2100-9-9**]  02:16 AM
                             [**2100-9-9**]  05:54 AM
                             [**2100-9-9**]  04:33 PM
                             [**2100-9-10**]  04:12 AM
                             [**2100-9-10**]  07:35 PM
                             [**2100-9-11**]  05:08 AM
   WBC
   5.0
   4.8
   5.2
   5.4
   5.5
   Hct
   30.8
   29.4
   24
   28.1
   27.5
   26.1
   Plt
   179
   177
   143
   110
   105
   Cr
   3.1
   2.3
   2.0
   2.0
   1.8
   1.5
   1.5
   1.4
   TropT
   0.07
   0.06
   0.07
   Glucose
   117
   83
   140
   137
   138
   138
   171
   118
   Other labs: PT / PTT / INR:17.9/34.9/1.6, CK / CKMB /
   Troponin-T:105/3/0.07, ALT / AST:41/47, Alk Phos / T Bili:164/1.7,
   LDH:231 IU/L, Ca++:9.0 mg/dL, Mg++:2.3 mg/dL, PO4:2.9 mg/dL
   Imaging: TTE [**9-10**]:
   Severe global left ventricular hypokinesis (LVEF = 20 %)
   The left atrium is moderately dilated. The right atrium is markedly
   dilated.
   There is abnormal septal motion/position consistent with right
   ventricular pressure/volume overload.
   Mild to moderate ([**12-11**]+) MR. Moderate [2+] TR. Compared with the
   findings of the prior study ([**2100-8-30**]), left ventricular
   dimensions are reduced, ejection fraction is increased, and the mitral
   and tricuspid regurgitation is reduced. Stroke volume is markedly
   increased.
   Assessment and Plan
   # Pump: Patient has advanced systolic CHF with EF of 15-20%.
   Exacerbation likely [**1-11**] medication non compliance given that he can't
   afford his medications or take care of himself.  Patient currently
   appears volume overloaded. He continues to have orthopnea, ascites, and
   sacral edema. S/P right heart cath. Diuresing well (negative approx
   2.5L yesterday).
   -Continue Lasix gtt to goal wedge 22, goal: negative another
   2-2.5L/day; goal negative 7.5 L more during hospitalization
   -Continue Milrinone
   -Continue Metolazone 5mg po bid
   -Holding lisinopril in the setting of acute renal failure
   -Check [**Hospital1 **] electrolytes, replete K with goal closer to 5
   -Metabolic alkalosis d/t diuresis: add diamox (acetazoladmie) 500mg po
   daily, but for a limited # of days (first day was [**9-10**])
   -Check orthostatics
   .
   # CORONARIES:  Patient has no known CAD. Cardiomyopathy is chronic, and
   patient is non compliant with medications. However have not ruled out
   ischemic etiology of CHF.
   -ASA, statin
   -Holding BB in the setting of acute CHF exacerbation
   .
   # RHYTHM:  patient has history of VT, atrial tachycardia, afib s/p
   ablation and ICD implant. Currently V paced.
   -monitor on telemetry
   -continue digoxin
   .
   #  Anticoagulation: Normally on coumadin for afib. INR 1.8 today, after
   being supratherapeutic on coumadin previously.
   - hold coumadin today d/t nosebleed
   .
   #  Acute on chronic renal failure: Baseline Cr 2.1?. Cr improving with
   diuresis, likely [**1-11**] poor forward flow.
   -trend Cr
   -renally dose meds (digoxin)
   -holding lisinopril
   .
   #  Normocytic Anemia: HCT 30.8. MCV of 97. Hct drop of 4 points. Has
   epistaxis this AM.
   -1 unit blood transfusion; lasix to avoid volume overload with this
   transfusion; transfuse slowly
   -recheck 5pm Hct
   -check folate (B12 >nl.)
   -continue to guiac stool
   -f/u thyroid function as outpatient
   .
   #  Chronic hepatitis C: Patient has ascites, elevated LFTs, all stable
   or improved from prior hospitalization. [**Month (only) 51**] be [**1-11**] congestive
   hepatopathy. No abdominal pain, leukocytosis, or fevers that would be
   concerning for SBP.
   - consider further workup if clinically changes for the worse
   .
   CODE: FULL confirmed with patient
   ICU Care
   Nutrition: Heart healthy diet. Replete lytes PRN, check [**Hospital1 **]
   electrolytes today d/t aggressive diuresis.
   Glycemic Control:
   Lines:
   20 Gauge - [**2100-9-8**] 02:35 PM
   Prophylaxis:
   DVT:  heparin SQ
   Stress ulcer:
   VAP:  no intubated
   Comments:
   -Pain management with tylenol PRN
   -Bowel regimen with senna, colace, polyethylene glycol
   Communication:  Comments:
   Code status:  FULL confirmed with patient
   Disposition:  CCU for now
   ATTENDING CCU DAILY PROGRESS NOTE
   I have reviewed the Progress Note by Dr. [**First Name (STitle) **] and I concur with the
   history, physical examination, assessment and treatment plan.   Mr.
   [**Known lastname 957**] is a 54 year old man with known diastolic and systolic heart
   failure (LVEF = 20%) who was admitted with an exacerbation of his
   symptoms.   He underwent tailored therapy with an indwelling PA
   catheter line and IV milrinone and IV furosemide.   He is currently on
   digoxin.  Over 10 L of diuresis was obtained.
   We are currently proceeding with continued diuresis in order to
   mobilize the remaining edema of his thighs and sacrum.  We anticipate
   that at least 5L of diuresis may remain, but are watching his
   orthostatic BPs and creatinine carefully.
   Symptomatically, he has responded with an improvement in his symptoms.
   The treatment plan was discussed with the patient and all questions
   addressed.
   [**First Name4 (NamePattern1) 1914**] [**Last Name (NamePattern1) 7145**] [**Pager number 10477**]
   ------ Protected Section ------
   Updated Intern Assessment and Plan
   54 M with long history of idiopathic dilated cardiomyopathy, A-fib on
   coumadin, s/p AVJ ablation, s/p pacemaker, s/p ICD, who was transferred
   from OSH for CHF management.
   # Pump: Patient has advanced systolic CHF with EF of 15-20%.
   Exacerbation likely [**1-11**] medication non compliance given that he can't
   afford his medications or take care of himself.  Patient currently
   appears volume overloaded. He continues to have sacral edema but is now
   approaching his dry weight. S/P right heart cath. Diuresing well
   (negative approx 2.5L yesterday).
   -Continue Lasix gtt to goal wedge 22, goal: negative another
   2-2.5L/day; goal negative 7.5 L more during hospitalization
   -Continue Milrinone, Metolazone 5mg po bid, Digoxin
   -Holding Lisinopril and Metoprolol in the setting of acute renal
   failure
   -Check [**Hospital1 **] electrolytes, replete K with goal closer to 5
   -Metabolic alkalosis d/t diuresis: add Diamox (acetazoladmie) 500mg po
   daily, but for a limited # of days (first day was [**9-10**])
   -Check orthostatics
   .
   # CORONARIES:  Patient has no known CAD. Cardiomyopathy is chronic, and
   patient is non compliant with medications. However have not ruled out
   ischemic etiology of CHF.
   -ASA, statin
   -Holding BB, ACEi in the setting of acute CHF exacerbation
   .
   # RHYTHM:  patient has history of VT, atrial tachycardia, afib s/p
   ablation and ICD implant. Currently V paced.
   -Monitor on telemetry
   -Continue digoxin
   .
   # Nosebleed:  Anterior nosebleed, will pack and ensure hemostasis.
   - Anterior packing
   - Oxymetazoline nose spray
   .
   # Anticoagulation: Normally on coumadin for afib. INR 1.8 today, after
   being supratherapeutic on Coumadin previously.
   - Hold coumadin today d/t nosebleed
   .
   # Acute on chronic renal failure: Baseline Cr 2.1?. Cr improving with
   diuresis, likely [**1-11**] poor forward flow.
   -Renally dose meds (digoxin)
   -Holding lisinopril
   .
   # Normocytic Anemia: HCT 30.8. MCV of 97. Hct drop of 4 points. Has
   epistaxis this AM.
   -1 unit blood transfusion; Lasix to avoid volume overload with this
   transfusion; transfuse slowly
   -recheck 5pm Hct
   -check folate (B12 >nl.)
   -continue to guiac stool
   -f/u thyroid function as outpatient
   .
   # Chronic hepatitis C: Patient has ascites, elevated LFTs, all stable
   or improved from prior hospitalization. [**Month (only) 51**] be [**1-11**] congestive
   hepatopathy. No abdominal pain, leukocytosis, or fevers that would be
   concerning for SBP.
   - consider further workup if clinically changes for the worse
   .
   CODE: FULL confirmed with patient
   ICU Care
   Nutrition: Heart healthy diet. Replete lytes PRN, check [**Hospital1 **]
   electrolytes today d/t aggressive diuresis.
   Glycemic Control:
   Lines:
   20 Gauge - [**2100-9-8**] 02:35 PM
   Prophylaxis:
   DVT:  heparin SQ
   Stress ulcer:
   VAP:  no intubated
   Comments:
   -Pain management with tylenol PRN
   -Bowel regimen with senna, colace, polyethylene glycol
   Communication:  Comments:
   Code status:  FULL confirmed with patient
   Disposition:  CCU for now
   ------ Protected Section Addendum Entered By:[**Name (NI) 10479**] [**First Name8 (NamePattern2) 10480**] [**Last Name (NamePattern1) **], MD
   on:[**2100-9-11**] 17:16 ------

2100-09-12 08:09:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   No acute events overnight.  Resolution of epistaxis yesterday,
   complains of dried clots in R nostril.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Furosemide (Lasix) - 3 mg/hour
   Milrinone - 0.375 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2100-9-12**] 08:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.8
C (98.3
   HR: 80 (80 - 109) bpm
   BP: 92/54(61) {84/44(57) - 114/90(96)} mmHg
   RR: 20 (13 - 27) insp/min
   SpO2: 96%
   Heart rhythm: AV Paced
   Wgt (current): 87.5 kg (admission): 93.5 kg
   Height: 73 Inch
             Total In:
                                                                  1,340 mL
                                                                    109 mL
   PO:
                                                                    570 mL
             TF:
   IVF:
                                                                    395 mL
                                                                    109 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  5,215 mL
                                                                    700 mL
   Urine:
                                                                  5,215 mL
                                                                    700 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,875 mL
                                                                   -591 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///38/
   Physical Examination
   General: Resting comfortably. NAD.
   CV: RRR, GII systolic murmur at LSB.
   LUNGS: Scattered rales at bases b/l.
   ABDOMEN:  Soft, NT, distended at baseline
   EXTR:  Trace pitting edema b/l, 2+ sacral edema
   Labs / Radiology
   118 K/uL
   9.2 g/dL
   137 mg/dL
   1.4 mg/dL
   38 mEq/L
   3.7 mEq/L
   43 mg/dL
   91 mEq/L
   134 mEq/L
   30.0 %
   6.5 K/uL
        [image002.jpg]
                             [**2100-9-9**]  12:37 AM
                             [**2100-9-9**]  02:16 AM
                             [**2100-9-9**]  05:54 AM
                             [**2100-9-9**]  04:33 PM
                             [**2100-9-10**]  04:12 AM
                             [**2100-9-10**]  07:35 PM
                             [**2100-9-11**]  12:00 AM
                             [**2100-9-11**]  05:08 AM
                             [**2100-9-12**]  01:30 AM
                             [**2100-9-12**]  05:34 AM
   WBC
   5.2
   5.4
   5.5
   6.5
   Hct
   24
   28.1
   27.5
   29.7
   26.1
   30.5
   30.0
   Plt
   143
   110
   105
   118
   Cr
   2.0
   2.0
   1.8
   1.5
   1.5
   1.4
   1.4
   1.5
   1.4
   Glucose
   140
   137
   138
   138
   171
   118
   137
   Other labs: PT / PTT / INR:15.8/29.8/1.4, CK / CKMB /
   Troponin-T:105/3/0.07, ALT / AST:41/47, Alk Phos / T Bili:164/1.7,
   LDH:231 IU/L, Ca++:9.3 mg/dL, Mg++:2.1 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   Briefly, 54 yo M w/ nonischemic CMP, EF <20%, AF s/p AVJ ablation (on
   coumadin), s/p PPM/ICD, severe TR, recently admitted for recurrent
   VT/VF in setting of decompensated heart failure (d/c [**9-2**]), who was
   readmitted [**9-8**] in volume overload and with ARF.. Recent echo showed EF
   <20%, global severe HK, severe TR, and marked biventricular dilation.
   Discharged for 2d to rehab, but signed out AMA to his rooming home,
   where he was unable to care for himself. On admit he was found to be
   volume overloaded, with increased Cr and hypotension. He went to cath
   lab [**9-8**] that showed elevated filling pressure with pulmonary
   hypertension. He was started on milrinone and lasix gtt and admitted to
   CCU.
 # Pump: Patient has advanced systolic CHF with EF of 15-20%.
   Exacerbation likely [**1-11**] medication non compliance given that he can't
   afford his medications or take care of himself.  Patient has been
   diuresing well, nearing dry weight but still appears with sacral edema.
   S/P right heart cath, diuresing well on Lasix drip and Milrinone.
   -Continue Lasix gtt to goal wedge 22, goal: negative another 2.5L/day
   -Continue Milrinone, Metolazone 5mg po bid, Digoxin
   -Holding Lisinopril and Metoprolol in the setting of acute renal
   failure
   -Check [**Hospital1 **] electrolytes, replete K with goal closer to 5
   -Metabolic alkalosis d/t diuresis: Diamox (acetazoladmie) 500mg po
   daily, but for a limited # of days (first day was [**9-10**])
   -Check orthostatics
   .
   # CORONARIES:  Patient has no known CAD. Cardiomyopathy is chronic, and
   patient is non compliant with medications. However have not ruled out
   ischemic etiology of CHF.
   -ASA, statin
   -Holding BB, ACEi in the setting of acute CHF exacerbation
   .
   # RHYTHM:  patient has history of VT, atrial tachycardia, afib s/p
   ablation and ICD implant. Currently V paced.   Coumadin for a fib held
   initially as supratherapeutic previously.
   -Monitor on telemetry
   -Continue digoxin
   -Restart Coumadin at home dose
   .
   # Nosebleed:  Anterior nosebleed, will pack and ensure hemostasis.
   Resolved with anterior packing, ok to re-start Coumadin.
   - Continue Oxymetazoline nose spray
   .
   # Acute on chronic renal failure: Baseline Cr 2.1?. Cr improving with
   diuresis, likely [**1-11**] poor forward flow.
   -Renally dose meds (digoxin)
   -Holding Lisinopril
   -Continue diuresis with Lasix drip for today as above
   .
   # Normocytic Anemia: HCT 30.8. MCV of 97. Hct drop of 4 points. Has
   epistaxis this AM, was transfused 1 unit PRBC.
   -check folate (B12 >nl.)
   -continue to guiac stool
   -f/u thyroid function as outpatient
   .
   # Chronic hepatitis C: Patient has ascites, elevated LFTs, all stable
   or improved from prior hospitalization. [**Month (only) 51**] be [**1-11**] congestive
   hepatopathy. No abdominal pain, leukocytosis, or fevers that would be
   concerning for SBP.
   - consider further workup if clinically changes for the worse
   ICU Care
   Nutrition: Cardiac heart healthy/low sodium
   Glycemic Control:
   Lines:
   20 Gauge - [**2100-9-11**] 05:42 PM
   Prophylaxis:
   DVT: SC Heparin, re-starting Coumadin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:  FULL (confirmed)
   Disposition:  CCU care
   ------ Protected Section ------
   ATTENDING CCU DAILY PROGRESS NOTE
   I have reviewed the Progress Note by Dr. [**First Name (STitle) **] today and I concur with
   the history, physical examination, assessment and treatment plan.   I
   was present for all portions of this physical examination.  Mr. [**Known lastname 957**]
   is a 54 year old man with known diastolic and systolic heart failure
   (LVEF = 20%) who was admitted with an exacerbation of his symptoms.
   He underwent tailored therapy with an indwelling PA catheter line and
   IV milrinone and IV furosemide.   He is currently on digoxin.
   An additional 3.5 L diuresis was obtained yesterday on the medical
   regimen of digoxin, milrinone, IV furosemide, and intermittent
   Diamox.   There is some reduction of the degree of edema in his thighs
   and sacrum.
   Symptomatically, he has responded with an improvement in his
   symptoms.   Epistaxis has resolved and has not recurred.  His
   creatinine has remained stable at 1.4 mg/dL.
   The treatment plan was discussed with the patient and all questions
   addressed.
   [**First Name4 (NamePattern1) 1914**] [**Last Name (NamePattern1) 7145**] [**Pager number 10477**]
   ------ Protected Section Addendum Entered By:[**Name (NI) 1914**] [**Last Name (NamePattern1) 7145**], MD
   on:[**2100-9-12**] 12:27 ------

2100-09-13 07:28:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 Room air maintaining sats 93-94 %
 Milrinone at .375 mics/kkg/min. lasix drip at 3 mg/hr
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Furosemide (Lasix) - 3 mg/hour
   Milrinone - 0.375 mcg/Kg/min
   Other ICU medications:
   Coumadin (Warfarin) - [**2100-9-12**] 06:00 PM
   Heparin Sodium (Prophylaxis) - [**2100-9-13**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2100-9-13**] 07:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.2
C (97.2
   HR: 80 (80 - 81) bpm
   BP: 102/57(68) {92/46(58) - 116/76(81)} mmHg
   RR: 19 (13 - 25) insp/min
   SpO2: 91%
   Heart rhythm: AV Paced
   Wgt (current): 87.5 kg (admission): 93.5 kg
   Height: 73 Inch
             Total In:
                                                                    905 mL
                                                                    395 mL
   PO:
                                                                     90 mL
                                                                    300 mL
   TF:
   IVF:
                                                                    325 mL
                                                                     95 mL
   Blood products:
   Total out:
                                                                  3,730 mL
                                                                  1,330 mL
   Urine:
                                                                  3,730 mL
                                                                  1,330 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,825 mL
                                                                   -935 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 91%
   ABG: ///35/
   Physical Examination
   General: Resting comfortably. NAD.
   CV: RRR, GI/VI systolic murmur at LLSB.
   LUNGS: Minimal scattered rales at bases b/l.
   ABDOMEN:  Soft, NT, distended at baseline
   EXTR:  No pedal edema, 1+ sacral edema
   Labs / Radiology
   116 K/uL
   9.8 g/dL
   96 mg/dL
   1.4 mg/dL
   35 mEq/L
   3.6 mEq/L
   37 mg/dL
   92 mEq/L
   136 mEq/L
   31.1 %
   6.6 K/uL
        [image002.jpg]
                             [**2100-9-9**]  05:54 AM
                             [**2100-9-9**]  04:33 PM
                             [**2100-9-10**]  04:12 AM
                             [**2100-9-10**]  07:35 PM
                             [**2100-9-11**]  12:00 AM
                             [**2100-9-11**]  05:08 AM
                             [**2100-9-12**]  01:30 AM
                             [**2100-9-12**]  05:34 AM
                             [**2100-9-12**]  06:30 PM
                             [**2100-9-13**]  03:09 AM
   WBC
   5.2
   5.4
   5.5
   6.5
   6.6
   Hct
   28.1
   27.5
   29.7
   26.1
   30.5
   30.0
   31.1
   Plt
   143
   110
   105
   118
   116
   Cr
   2.0
   1.8
   1.5
   1.5
   1.4
   1.4
   1.5
   1.4
   1.3
   1.4
   Glucose
   137
   138
   138
   171
   118
   137
   96
   Other labs: PT / PTT / INR:16.4/36.1/1.5, CK / CKMB /
   Troponin-T:105/3/0.07, ALT / AST:41/47, Alk Phos / T Bili:164/1.7,
   LDH:231 IU/L, Ca++:9.3 mg/dL, Mg++:1.9 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   Briefly, 54 yo M w/nonischemic CMP, EF <20%, AF s/p AVJ ablation (on
   coumadin), s/p PPM/ICD, severe TR, recently admitted for recurrent
   VT/VF in setting of decompensated heart failure (d/c [**9-2**]), who was
   readmitted [**9-8**] in volume overload and with ARF.. Recent echo showed EF
   <20%, global severe HK, severe TR, and marked biventricular dilation.
   Discharged for 2d to rehab, but signed out AMA to his rooming home,
   where he was unable to care for himself. On admit he was found to be
   volume overloaded, with increased Cr and hypotension. He went to cath
   lab [**9-8**] that showed elevated filling pressure with pulmonary
   hypertension. He was started on milrinone and lasix gtt and admitted to
   CCU.
 # Pump: Patient has advanced systolic CHF with EF of 15-20%,
   presented with CHF exacerbation likely [**1-11**] medication non-compliance.
   S/P right heart cath, diuresing well on Lasix drip and Milrinone,
   nearing dry weight.
   -Continue Lasix gtt; goal 1-2L negative today, net -19L thus far
   -Discontinue Milrinone today
   -Continue Metolazone 5mg po bid
   -On spironolactone at home, anticipate re-starting prior to discharge
   -Continue Digoxin
   -Consider re-initiating home Metoprolol tomorrow
   -Continue holding Lisinopril in the setting of acute renal failure
   -Check [**Hospital1 **] electrolytes, K goal closer to 5
   -Metabolic alkalosis d/t diuresis: Diamox (acetazoladmie) 500mg po
   daily, but for a limited # of days (first day was [**9-10**])
   -Check orthostatics
   .
   # CORONARIES:  Patient has no known CAD. Cardiomyopathy is chronic, and
   patient is non compliant with medications. However have not ruled out
   ischemic etiology of CHF.
   -ASA, statin
   -Consider re-initiating BB tomorrow
   -Hold ACEi in the setting of ARF
   .
   # RHYTHM:  patient has history of VT, atrial tachycardia, afib s/p
   ablation and ICD implant. Currently V paced.   Coumadin for a fib held
   initially as supratherapeutic previously, currently re-started with
   sub-therapeutic INR.  Monitor INR and anticipate increase to
   therapeutic level over the next several days.
   -Monitor on telemetry
   -Continue digoxin
   -Continue Coumadin at home dose
   .
   # Acute on chronic renal failure: Baseline Cr ?1.0 in the past year,
   but 1.[**4-12**] be new baseline. Cr improving with diuresis, likely [**1-11**]
   poor forward flow.
   -Renally dose meds (digoxin)
   -Holding Lisinopril
   .
   # Nosebleed:  Anterior nosebleed, will pack and ensure hemostasis.
   Resolved with anterior packing.
   - Continue Oxymetazoline nose spray
   .
   # Normocytic Anemia: HCT 30.8. MCV of 97. Hct drop of 4 points. Has
   epistaxis, was transfused 1 unit PRBC.
   -check folate (B12 >nl.)
   -continue to guiac stool
   -f/u thyroid function as outpatient
   .
   # Chronic hepatitis C: Patient has ascites, elevated LFTs, all stable
   or improved from prior hospitalization. [**Month (only) 51**] be [**1-11**] congestive
   hepatopathy. No abdominal pain, leukocytosis, or fevers that would be
   concerning for SBP.
   - consider further workup if clinically changes for the worse
   ICU Care
   Nutrition: Cardiac heart healthy/low sodium
   Glycemic Control:
   Lines:
   20 Gauge - [**2100-9-11**] 05:42 PM
   Prophylaxis:
   DVT: SC Heparin, Coumadin
   Stress ulcer: not intubated
   VAP:  not intubated
   Comments:
   Communication:  Comments:
   Code status:  FULL (confirmed)
   Disposition:  CCU care
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   Above discussed extensively with patient.
   Total time spent on patient care: 45 minutes.
   Additional comments:
   srtill diuresing well off milrinone and on drastically reduced Lasix
   gtt (now at 3 mg per hour); these are very good signs
   we will transfer him to [**Hospital Ward Name **] 3 and arrange for rehab (he is homeless)
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name (NI) **]  on:[**2100-9-13**]
   17:05 ------